US07087626B2
7-(1-Methyl-pyrrolidin-3-ylmethoxy)-4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline
To a 1 M solution of lithium aluminum hydride in tetrahydrofuran (0.60 mL, 0.59 mmol) is added a solution of 3-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxymethyl]-pyrrolidine-1-carboxylic acid benzyl ester (215 mg, 0.39 mmol) in tetrahydrofuran (2 mL). The mixture is heated at 65° C. for 2 h, cooled to 0° C., and diluted with saturated aqueous sodium potassium tartrate solution. The mixture is extracted with chloroform and the organic portion chromatographed on SiO2 to yield the title compound, 112 mg (67%), as a yellow foam.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxymethyl]-pyrrolidine-1-carboxylic acid benzyl ester | 0.39 mmol, 215 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)COC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C33H31N5O3
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | tetrahydrofuran | 0.59 mmol, 0.60 mL | O1CCCC1 | C4H8O
product | 7-(1-Methyl-pyrrolidin-3-ylmethoxy)-4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline | CN1CC(CC1)COC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C26H27N5O
